US06673800B2
Preparation of 1-Phenyl-4-[4-(3-phenyl-4,5-dihydroisoxazol-5-yl)butyl]piperazine
4-(3-Phenyl-4,5-dihydroisoxazol-5-yl)butanal (29.4 mg, 0.135 mmol), 1-phenylpiperazine (20.0 mg, 0.123 mmol), molecular sieve (5 beads) and NaBH(OAc)3 (78.4 mg, 0.369 mmol) were reacted in 3 mL of methylene chloride for about 12 hr. With the following processes the same as in Example 1, 35.7 mg (68.4%) of the target compound was obtained.

reactant | 4-(3-Phenyl-4,5-dihydroisoxazol-5-yl)butanal | 0.135 mmol, 29.4 mg | C1(=CC=CC=C1)C1=NOC(C1)CCCC=O | C13H15NO2
reactant | 1-phenylpiperazine | 0.123 mmol, 20.0 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | NaBH(OAc)3 | 0.369 mmol, 78.4 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-Phenyl-4-[4-(3-phenyl-4,5-dihydroisoxazol-5-yl)butyl]piperazine | 35.7 mg, 68.4% | C1(=CC=CC=C1)N1CCN(CC1)CCCCC1CC(=NO1)C1=CC=CC=C1 | C23H29N3O
